US07375227B2
1-{2-[4-(3-Methyl-benzyl)-piperidin-1-yl]-ethyl}-3-(2-methyl-quinolin-4-yl)-urea
A suspension of 1-{2-[4-(3-methyl-benzylidene)-piperidin-1-yl]-ethyl}-3-(2-methyl-quinolin-4-yl)-urea (21 mg, 0.05 mmol), 2M aqueous HCl (0.5 mL, 1 mmol) and Pd—C (10%, 5 mg) in MeOH (2 mL) is stirred under hydrogen atmosphere for 6 h. The catalyst is filtered off and the filtrate evaporated to provide the title compound as hydrochloride salt.

reactant | 1-{2-[4-(3-methyl-benzylidene)-piperidin-1-yl]-ethyl}-3-(2-methyl-quinolin-4-yl)-urea | 0.05 mmol, 21 mg | CC=1C=C(C=C2CCN(CC2)CCNC(=O)NC2=CC(=NC3=CC=CC=C23)C)C=CC1 | C26H30N4O
reactant | HCl | 1 mmol, 2M, 0.5 mL | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd—C | 5 mg | [Pd] | Pd
product | 1-{2-[4-(3-Methyl-benzyl)-piperidin-1-yl]-ethyl}-3-(2-methyl-quinolin-4-yl)-urea | CC=1C=C(CC2CCN(CC2)CCNC(=O)NC2=CC(=NC3=CC=CC=C23)C)C=CC1 | C26H32N4O
